US05852016
N-(2,3-Dimethoxy-6,7-dimethylquinoxalin-5-yl)-trifluoromethanesulphonamide
Trifluoromethanesulphonic anhydride (126 ml, 0.75 mmol) was added dropwise to a solution of 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline (Preparation 2) (170 mg, 0.73 mmol) and triethylamine (112 ml, 0.81 mmol) in dry dichloromethane (15 ml) under nitrogen at -50° C. The mixture was stirred at -30° C. for 2 hours, poured into water and extracted with three portions of dichloromethane. The product was then extracted from the dichloromethane using 1M aqueous sodium hydroxide. The aqueous phase was acidified with excess 2M hydrochloric acid, and the product extracted into dichloromethane (3 portions). The combined extracts were dried (MgSO4) and concentrated under reduced pressure to give a white solid (260 mg, 98%).

reactant | Trifluoromethanesulphonic anhydride | 0.75 mmol, 126 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline | 0.73 mmol, 170 mg | NC1=C2N=C(C(=NC2=CC(=C1C)C)OC)OC | C12H15N3O2
reactant | triethylamine | 0.81 mmol, 112 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(2,3-Dimethoxy-6,7-dimethylquinoxalin-5-yl)-trifluoromethanesulphonamide | 260 mg, 98% | COC1=NC2=CC(=C(C(=C2N=C1OC)NS(=O)(=O)C(F)(F)F)C)C | C13H14F3N3O4S
